US08058269B2
Preparation of 3-(2,2-Dimethyl-propylamino)-propionic acid methyl ester
A mixture of 1.5 g 2,2-Dimethyl-propionaldehyde, 2.18 g 3-Amino-propionic acid methyl ester and 50 ml MeOH was stirred at room temperature for 30 min. 1.5 g NaCNBH3 was added in small portion. The mixture was stirred for another 3 hrs. The solvent was removed in vacuum. 50 mL Water was added to the residue and the mixture was basified to PH10 by 1N NaOH. The solution was extracted by EtOAc (30 mL×3). The organic phase was washed by 20 mL water, dried over Na2SO4. Removed the solvent gave 0.66 g target molecule as clear oil.

reactant | 2,2-Dimethyl-propionaldehyde | 1.5 g | CC(C=O)(C)C | C5H10O
reactant | 3-Amino-propionic acid methyl ester | 2.18 g | COC(CCN)=O | C4H9NO2
reactant | NaCNBH3 | 1.5 g | [BH3-]C#N.[Na+]
solvent | MeOH | 50 ml | CO | CH4O
product | 3-(2,2-Dimethyl-propylamino)-propionic acid methyl ester | COC(CCNCC(C)(C)C)=O | C9H19NO2
